US08242153B2
To a stirred solution of (S)-4-[2-(3-benzyloxy-phenoxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine (0.04 g) at room temperature in methanol (2 ml) under an argon atmosphere was added palladium on charcoal (10%, 15 mg). The mixture was stirred at room temperature under a hydrogen atmosphere for 1 hour. The catalyst was filtered off, the filtrate was concentrated and purified by column chromatography to give 3-[2-((S)-2-amino-4,5-dihydro-oxazol-4-yl)-ethoxy]-phenol (0.018 g) as a light yellow oil. MS (ISP): 223.3 ([M+H]+).

reactant | (S)-4-[2-(3-benzyloxy-phenoxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine | 0.04 g | C(C1=CC=CC=C1)OC=1C=C(OCC[C@@H]2N=C(OC2)N)C=CC1 | C18H20N2O3
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | 3-[2-((S)-2-amino-4,5-dihydro-oxazol-4-yl)-ethoxy]-phenol | 0.018 g | NC=1OC[C@@H](N1)CCOC=1C=C(C=CC1)O | C11H14N2O3
